US05153203
7-(4-Piperidyloxy)-1-cyclopropyl-5-amino-8-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (Compound No. 52)
1-Cyclopropyl-5-amino-7,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 4-piperidinol and sodium hydride were reacted and treated in a similar manner to Example 9, whereby the title compound was obtained as colorless powder.

reactant | 1-Cyclopropyl-5-amino-7,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CC1)N1C=C(C(C2=C(C=C(C(=C12)F)F)N)=O)C(=O)O | C13H10F2N2O3
reactant | 4-piperidinol | N1CCC(CC1)O | C5H11NO
reactant | sodium hydride | [H-].[Na+]
product | 7-(4-Piperidyloxy)-1-cyclopropyl-5-amino-8-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | N1CCC(CC1)OC1=CC(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)N | C18H20FN3O4
